US04071686
2. [(α-methyl-3,4-dichlorobenzylidene amino)oxy] acetic acid
In the manner described in example 1, the above substance was obtained by boiling 4.73 g or 3,4-dichloroacetophenone, 2.74 g of hemihydrochloride of aminooxyacetic acid and 6.15 g of sodium acetate in 80% ethanol for one hour. After one crystallisation from a mixture of benzene and petroleum ether, the melting point was 128°-129° C.

reactant | 3,4-dichloroacetophenone | CC(=O)C1=CC(=C(C=C1)Cl)Cl | C8H6Cl2O
reactant | aminooxyacetic acid | NOCC(=O)O | C2H5NO3
reactant | sodium acetate | 6.15 g | C(C)(=O)[O-].[Na+]
solvent | ethanol | C(C)O | C2H6O
product | [(α-methyl-3,4-dichlorobenzylidene amino)oxy] acetic acid | CC(C1=CC(=C(C=C1)Cl)Cl)=NOCC(=O)O | C10H9Cl2NO3
